US07148249B2
1-acetyl-3-[1-hydroxy-1-(2-furyl)methylene]-2-indolinone
An ice-cooled solution of 7.0 g 1-acetyl-2-indolinone and 10.8 g DMAP in 60 ml DMF is combined with 4.4 ml of furan-2-carboxylic acid chloride. The mixture is stirred for 1 hour at ambient temperature, then poured onto 40 ml of conc. hydrochloric acid and 500 ml ice water. The precipitate is suction filtered, washed successively with ethanol and diethyl ether and dried.

reactant | 1-acetyl-2-indolinone | 7.0 g | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | furan-2-carboxylic acid chloride | 4.4 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | hydrochloric acid | 40 ml | Cl | ClH
catalyst | DMAP | 10.8 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 1-acetyl-3-[1-hydroxy-1-(2-furyl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C=1OC=CC1)O)=O | C15H11NO4
